US04126687
A mixture of 5 parts of 1,3-dihydro-1-(3-iodopropyl)-3-methyl-2H-benzimidazol-2-one, 3.4 parts of 1-phenyl-1,3,8-triazaspiro[4,5]decan-4-one, 2.65 parts of sodium carbonate and 22.5 parts of N,N-dimethylformamide is stirred and heated for 2 hours at 70° C. The reaction mixture is cooled and poured onto water, whereupon an oily precipitate is formed. The supernatant aqueous phase is decanted and the residual oil is dissoved in trichloromethane. The solution is dried, filtered and evaporated. The residue is purified by column-chromatography over silica gel using a mixture of trichloromethane and 5% of methanol as eluent. The pure fractions are collected and the eluent is evaporated, yielding 1 part of 8-[3-(1,3-dihydro-3-methyl-2-oxo-2H-benzimidazol-1-yl)propyl]-1-phenyl-1,3,8-triazaspiro[4,5]decan-4-one; mp. 164.4° C.

reactant | 1,3-dihydro-1-(3-iodopropyl)-3-methyl-2H-benzimidazol-2-one | ICCCN1C(N(C2=C1C=CC=C2)C)=O | C11H13IN2O
reactant | 1-phenyl-1,3,8-triazaspiro[4,5]decan-4-one | C1(=CC=CC=C1)N1CNC(C12CCNCC2)=O | C13H17N3O
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 8-[3-(1,3-dihydro-3-methyl-2-oxo-2H-benzimidazol-1-yl)propyl]-1-phenyl-1,3,8-triazaspiro[4,5]decan-4-one | CN1C(N(C2=C1C=CC=C2)CCCN2CCC1(C(NCN1C1=CC=CC=C1)=O)CC2)=O | C24H29N5O2
